US03953476
A mixture of 2,4-dichloro-5-methylsulfonylbenzoic acid (6.0 g.; 0.0224 mole), butylamine (9 ml.) and ethyl cellosolve (20 ml.) is heated at reflux in a nitrogen atmosphere for 5 hours. The solvent is distilled at reduced pressure and the residue is dissolved in water (75 ml.) then treated with dilute hydrochloric acid which causes the product to precipitate. After recrystallization from butyl chloride there is collected 2.3 g. (34% yield) of 2-butylamino-4-chloro-5-methylsulfonylbenzoic acid, m.p. 187°-9° C.

reactant | 2,4-dichloro-5-methylsulfonylbenzoic acid | 0.0224 mole, 6.0 g | ClC1=C(C(=O)O)C=C(C(=C1)Cl)S(=O)(=O)C | C8H6Cl2O4S
reactant | butylamine | 9 ml | C(CCC)N | C4H11N
solvent | ethyl cellosolve | 20 ml | CCOCCO | C4H10O2
product | 2-butylamino-4-chloro-5-methylsulfonylbenzoic acid | 34% yield | C(CCC)NC1=C(C(=O)O)C=C(C(=C1)Cl)S(=O)(=O)C | C12H16ClNO4S
